US06914160B1
2-Benzylamino-nicotinic Acid
Potassium carbonate (4.82 g, 34.9 mmol) was added to a mixture of 2-chloronicotinic acid (5.0 g, 31.7 mol), benzylamine (3.47 ml, 31.7 mmol) and copper (I) bromide (450 mg, 3.17 mmol) in N,N-dimethylformamide (50 ml), and the reaction heated at 100° C. for 2 hours, then cooled. The resulting solid was filtered off and the filtrate evaporated under reduced pressure. The residue was partitioned between 4N sodium hydroxide solution (25 ml) and dichloromethane (25 ml) and the layers separated. The organic solution was extracted with water (2×), and the combined aqueous solutions, neutralised using concentrated hydrochloric acid. The resulting solid was filtered off, washed with cold water and dried in vacuo at 50° C., to afford the title compound, 1.6 g.

reactant | Potassium carbonate | 34.9 mmol, 4.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloronicotinic acid | 31.7 mol, 5.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | benzylamine | 31.7 mmol, 3.47 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) bromide | 3.17 mmol, 450 mg | [Cu]Br
product | 2-Benzylamino-nicotinic Acid | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=CC=N1 | C13H12N2O2
